US07196080B2
To 233 mg of ethyl [(4-{4-[6-(3,4-dimethoxyphenyl)pyridine-2-carbonyl]piperazin-1-yl}benzoyl)amino]acetate was added 0.8 ml of conc. hydrochloric acid, followed by overnight stirring at room temperature. After the reaction solution was concentrated under reduced pressure, crystallization was carried out from 2-propanol-diisopropyl ether to collect [(4-f4-[6-(3,4-dimethoxyphenyl)pyridine-2-carbonyl]piperazin-1-yl}benzoyl)amino]acetic acid hydrochloride by filtration. The filtrate was concentrated under reduced pressure, and the residue was crystallized from hexane to obtain 88 mg of [(4-{4-[6-(3,4-dimethoxyphenyl)pyridine-2-carbonyl]piperazin-1-yl}benzoyl)amino]acetic acid hydrate as pale brown crystals.

reactant | ethyl [(4-{4-[6-(3,4-dimethoxyphenyl)pyridine-2-carbonyl]piperazin-1-yl}benzoyl)amino]acetate | 233 mg | COC=1C=C(C=CC1OC)C1=CC=CC(=N1)C(=O)N1CCN(CC1)C1=CC=C(C(=O)NCC(=O)OCC)C=C1 | C29H32N4O6
reactant | hydrochloric acid | 0.8 ml | Cl | ClH
product | [(4-{4-[6-(3,4-dimethoxyphenyl)pyridine-2-carbonyl]piperazin-1-yl}benzoyl)amino]acetic acid hydrate | 88 mg | O.COC=1C=C(C=CC1OC)C1=CC=CC(=N1)C(=O)N1CCN(CC1)C1=CC=C(C(=O)NCC(=O)O)C=C1 | InChI=1S/C27H28N4O6.H2O/c1-36-23-11-8-19(16-24(23)37-2)21-4-3-5-22(29-21)27(35)31-14-12-30(13-15-31)20-9-6-18(7-10-20)26(34)28-17-25(32)33;/h3-11,16H,12-15,17H2,1-2H3,(H,28,34)(H,32,33);1H2
